US07834181B2
2-Fluoro-8-(2-iodo-4,5-dimethoxy-benzyl)adenine:
A solution of 2-Fluoro-8-(3,4-dimethoxy-benzyl)adenine (50 mg, 0.165 mmol), NIS (74 mg, 0.33 mmol), TFA (18.8 mg, 12.7 L, 0.165 mmol) in acetonitrile (120 L) was stirred at room temperature for 24 h. Following solvent removal, the product (12 mg, 16.9%) was collected through silica gel column purification (CHCl3:MeOH:AcOH at 80:1:0.5 to 30:1:0.5). MS m/z 430.1 (M+H)+.

reactant | 2-Fluoro-8-(3,4-dimethoxy-benzyl)adenine | 0.165 mmol, 50 mg | FC1=NC(=C2NC(=NC2=N1)CC1=CC(=C(C=C1)OC)OC)N | C14H14FN5O2
reactant | NIS | 0.33 mmol, 74 mg | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | TFA | 0.165 mmol, 12.7 L, 18.8 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetonitrile | 120 L | C(C)#N | C2H3N
product | 2-Fluoro-8-(2-iodo-4,5-dimethoxy-benzyl)adenine | FC1=NC(=C2NC(=NC2=N1)CC1=C(C=C(C(=C1)OC)OC)I)N | C14H13FIN5O2
